US09034864B2
Synthesis of (1R)-1-[(3S,4S)-1-{[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]carbonyl}-4-(3-{[1-(diphenylmethyl)azetidin-3-yl]oxy}-4-methoxyphenyl)-3-methylpyrrolidin-3-yl]ethanol
To a suspension of (1R)-1-[(3S,4S)-1-{[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]carbonyl}-4-(4-methoxy-3-hydroxyphenyl)-3-methylpyrrolidin-3-yl]ethanol (2.0 g) and potassium carbonate (1.46 g) in acetonitrile (30 mL) is added 1-(diphenylmethyl)azetidin-3-yl methanesulfonate (2.51 g). The mixture is heated at 80° C. overnight. Cool the reaction mixture and pour into ethyl acetate (100 mL), wash with water (40 mL) and brine (40 mL), dry over sodium sulfate, filter and evaporate the filtrate to dryness. Purify the resulting residue (silica gel, 60% ethyl acetate/hexanes to ethyl acetate) to provide 0.6 g of the title compound. MS (ES+)=601 (M+1).

reactant | (1R)-1-[(3S,4S)-1-{[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]carbonyl}-4-(4-methoxy-3-hydroxyphenyl)-3-methylpyrrolidin-3-yl]ethanol | 2.0 g | CC1(OC[C@H](O1)C(=O)N1C[C@@]([C@@H](C1)C1=CC(=C(C=C1)OC)O)(C)[C@@H](C)O)C | C20H29NO6
reactant | potassium carbonate | 1.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(diphenylmethyl)azetidin-3-yl methanesulfonate | 2.51 g | CS(=O)(=O)OC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H19NO3S
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | (1R)-1-[(3S,4S)-1-{[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]carbonyl}-4-(3-{[1-(diphenylmethyl)azetidin-3-yl]oxy}-4-methoxyphenyl)-3-methylpyrrolidin-3-yl]ethanol | 0.6 g | CC1(OC[C@H](O1)C(=O)N1C[C@@]([C@@H](C1)C1=CC(=C(C=C1)OC)OC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)(C)[C@@H](C)O)C | C36H44N2O6
